US03992400
In the manner given in Preparation 11, 2-amino-2'-chlorobenzophenone hydrazone is refluxed with potassium hydroxide in diethylene glycol to give 2-(o-chlorobenzyl)aniline.

reactant | 2-amino-2'-chlorobenzophenone hydrazone | NC1=C(C(C2=C(C=CC=C2)Cl)=NN)C=CC=C1 | C13H12ClN3
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-(o-chlorobenzyl)aniline | ClC1=C(CC2=C(N)C=CC=C2)C=CC=C1 | C13H12ClN
